US08735417B2
To a suspension of tert-butyl[5-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]carbamate (56 mg, 0.128 mmol) in CH2Cl2 (2 mL) at room temperature, under nitrogen, was added trifluoroacetic acid (0.197 mL, 2.56 mmol). The mixture was stirred at room temperature for 17 hours and concentrated to dryness. The residue was partitioned between ethyl acetate and 5% NaHCO3. The aqueous layer was extracted twice with ethyl acetate and the combined organic fractions were washed with water and brine, dried over Na2SO4 and concentrated. The product was purified by column chromatography on silica gel (ethyl acetate/dichloromethane) to afford N-[3-(2-amino-1,3-thiazol-5-yl)phenyl]-4-(trifluoromethyl)-pyrimidin-2-amine (30.1 mg, 69.7%) as a beige solid. APCI [M+H]+ m/z 338.1 1H NMR (400 MHz, Acetone-d6): δ 9.21 (br s, 1H); 8.82 (d, J=4.9 Hz, 1H); 8.12 (s, 1H); 7.67 (d, J=8.2 Hz, 1H); 7.37 (s, 1H); 7.33 (t, J=8.0 Hz, 1H); 7.24 (d, J=4.9 Hz, 1H); 7.18 (d, J=7.8 Hz, 1H); 6.48-6.41 (m, 2H). rhSYK activity=+++

reactant | tert-butyl[5-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]carbamate | 0.128 mmol, 56 mg | C(C)(C)(C)OC(NC=1SC(=CN1)C1=CC(=CC=C1)NC1=NC=CC(=N1)C(F)(F)F)=O | C19H18F3N5O2S
reactant | trifluoroacetic acid | 2.56 mmol, 0.197 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(2-amino-1,3-thiazol-5-yl)phenyl]-4-(trifluoromethyl)-pyrimidin-2-amine | 30.1 mg, 69.7% | NC=1SC(=CN1)C=1C=C(C=CC1)NC1=NC=CC(=N1)C(F)(F)F | C14H10F3N5S
